US07592363B2
2-[4-({4-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}METHYL)PHENYL]PROPANOIC ACID
The title compound was prepared by treating 4-(2-benzyl-7-trifluoromethyl-2H-indazole-3-yl)-phenol (20 mg, 1 eq) with 2-(4-bromomethyl-phenyl)-propionic acid (39 mg, 3 eq) and potassium carbonate (37 mg, 5 eq) in DMF (2 mL) at 150° C. overnight. After cooling, water was added and the pH adjusted to 1 (aq. HCl, 2M) followed by extraction with dichloromethane. Purification by preparative HPLC gave the desired product in 45% yleld.

reactant | 4-(2-benzyl-7-trifluoromethyl-2H-indazole-3-yl)-phenol | 20 mg, 1 eq | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)O)C(F)(F)F | C21H15F3N2O
reactant | 2-(4-bromomethyl-phenyl)-propionic acid | 39 mg, 3 eq | BrCC1=CC=C(C=C1)C(C(=O)O)C | C10H11BrO2
reactant | potassium carbonate | 37 mg, 5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[4-({4-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}METHYL)PHENYL]PROPANOIC ACID | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(OCC2=CC=C(C=C2)C(C(=O)O)C)C=C1)C(F)(F)F | C31H25F3N2O3
